US07153635B1
A dispersion of silver benzotriazole was prepared by concurrently adding a solution of silver nitrate, and a solution of sodium benzotriazole into a stirred aqueous bone gelatin solution. The small particle dispersion was centrifuged and the solid phase was resuspended in water, treated with a protolytic enzyme at 35° C. to destroy the gelatin, centrifuged, washed with water, resuspended in water, sonicated, and finally freeze-dried to a free-flowing white powder.

reactant | silver nitrate | [N+](=O)([O-])[O-].[Ag+]
reactant | sodium benzotriazole | N1N=NC2=C1C=CC=C2.[Na]
solvent | water | O | H2O
product | silver benzotriazole | N1N=NC2=C1C=CC=C2.[Ag] | InChI=1S/C6H5N3.Ag/c1-2-4-6-5(3-1)7-9-8-6;/h1-4H,(H,7,8,9);
